US06087380
i) 1-Methyl-2-(N-4-cyanophenylaminomethyl)-thieno[2.3-d]imidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide
To a solution of 0.73 g (1.88 mmol) of 1-methyl-2-methoxymethyl-thieno[2.3-d]imidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide in 30 ml of methylene chloride were added dropwise at 5° C. 2.9 ml (2.9 mmol) of a 1-molar solution of boron tribromide in methylene chloride. After 16 hours' stirring at ambient temperature the mixture was washed with 20 ml of saturated sodium hydrogen carbonate solution, the organic phase was separated off, dried with sodium sulphate and filtered. The filtrate was mixed with 14 ml of N-ethyl-diisopropylamine and 0.43 g (3.64 mmol) of 4-aminobenzonitrile. Then the methylene chloride was distilled off in vacuo, the residue obtained was heated to 5° C. for 1 hour and then the residual solvent was distilled off in vacuo. After chromatography (silica gel; methylene chloride/ethanol=99:1 to 97:3) a yellow oil was obtained which slowly solidified. Yield: 0.37 g (42% of theory), Rf value: 0.29 (silica gel; methylene chloride/ethanol=50:1+a few drops of ammonia)

reactant | 1-methyl-2-methoxymethyl-thieno[2.3-d]imidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide | 1.88 mmol, 0.73 g | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N=C(N2C)COC)S1)CCC(=O)OC | C19H21N3O4S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | N-ethyl-diisopropylamine | 14 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-aminobenzonitrile | 3.64 mmol, 0.43 g | NC1=CC=C(C#N)C=C1 | C7H6N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | ammonia | a few drops | N | H3N
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | 1-Methyl-2-(N-4-cyanophenylaminomethyl)-thieno[2.3-d]imidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N=C(N2C)CNC2=CC=C(C=C2)C#N)S1)CCC(=O)OC | C25H23N5O3S
